US04954518
10 ml of dioxane and 10 ml of 6N hydrochloric acid were added to 500 mg of 7-(N-acetyl-N-methylsulfonylamino)-3-ethoxycarbonyl-2-methyl-6-phenoxy-4H-1-benzopyran-4-one. The mixture was refluxed for 20 minutes. The reaction mixture was cooled to 5°-10° C. 30 ml of water was added thereto. The resulting crystal was collected by filtration and recrystallized from acetic acid to obtain 400 mg (yield: 95.2%) of 3-carboxy-2-methyl-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one having a melting point of 238°-241° C.

reactant | dioxane | 10 ml | O1CCOCC1 | C4H8O2
reactant | hydrochloric acid | 6N, 10 ml | Cl | ClH
reactant | 7-(N-acetyl-N-methylsulfonylamino)-3-ethoxycarbonyl-2-methyl-6-phenoxy-4H-1-benzopyran-4-one | 500 mg | C(C)(=O)N(S(=O)(=O)C)C1=CC2=C(C(C(=C(O2)C)C(=O)OCC)=O)C=C1OC1=CC=CC=C1 | C22H21NO8S
solvent | water | 30 ml | O | H2O
product | 3-carboxy-2-methyl-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one | 400 mg, yield: 95.2% | C(=O)(O)C1=C(OC2=C(C1=O)C=C(C(=C2)NS(=O)(=O)C)OC2=CC=CC=C2)C | C18H15NO7S
